*16RIA20 MCE 3/18/98
*Ref: IR Power Semiconductors Product Digest '94
*200V 35A pkg:TO-126 1,2,3
.SUBCKT 16RIA20  1 2 3
*    TERMINALS:  A G K
QP  6 4 1  POUT OFF
QN  4 6 5  NOUT OFF
RF  6 4    91.4K
RR  1 4    60.9K
RGK 6 5    50
RG  2 6    0.909
RK  3 5    4.95M
DF  6 4    ZF
DR  1 4    ZR
DGK 6 5    ZGK
.MODEL ZF   D (IS=14F IBV=438U BV=200)
.MODEL ZR   D (IS=14F IBV=438U BV=200)
.MODEL ZGK  D (IS=14F IBV=438U BV=5)
.MODEL POUT PNP (IS=14P BF=1 CJE=134P TF=53.3U)
.MODEL NOUT NPN (IS=14P BF=100 RC=19.8M CJE=670P CJC=134P TF=3.56U)
.ENDS

